US06610707B1
Tetrapropylammonium perruthenate (14.4 mg) was added to a stirred suspension of 4-(3-[1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)phenylmethanol (384 mg) [see Preparation 21], N-methylmorpholine oxide (166 mg) and 4 Å molecular sieves in 10% v/v acetonitrile/dichloromethane (4 ml). The reaction mixture was stirred for 1 hour after which time the solvent was removed under reduced pressure. The crude product was purified by column chromatography on silica gel eluting with ethyl acetate to afford 4-(3-[1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)benzaldehyde (342 mg).

reactant | 4-(3-[1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)phenylmethanol | 384 mg | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CCCC2)C2=NOC(=N2)COC2=CC=C(C=C2)CO | C22H23N5O5S
reactant | N-methylmorpholine oxide | 166 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | Tetrapropylammonium perruthenate | 14.4 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
solvent | acetonitrile dichloromethane | 4 ml | C(C)#N.ClCCl
product | 4-(3-[1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)benzaldehyde | 342 mg | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CCCC2)C2=NOC(=N2)COC2=CC=C(C=O)C=C2 | C22H21N5O5S
